US06399643B1
d) Methyl 1-(3-((S)-1-tert-butoxycarbonyl-3-methylbutyl)ureido)cyclohexanecarboxylate
A solution of 28 g (179 mmol) of methyl 1-aminocyclohexane-1-carboxylate was added to a solution of 38 g (179 mmol) of L-leucine tert-butyl ester isocyanate (prepared analogously to J. S. Nowick et al., J. Org. Chem. 1996, 61, 3929) in 300 ml of absolute DMF. After stirring at room temperature for 2 hours, the reaction mixture was allowed to stand overnight. The solvent was removed in vacuo, the residue was treated with heptane and the mixture was stirred at room temperature for 2 hours. The precipitate was filtered off with suction and washed with heptane. Yield: 45.94 g (69%).

reactant | methyl 1-aminocyclohexane-1-carboxylate | 179 mmol, 28 g | NC1(CCCCC1)C(=O)OC | C8H15NO2
reactant | L-leucine tert-butyl ester isocyanate | 179 mmol, 38 g | [N-]=C=O.C(C)(C)(C)OC([C@@H](N)CC(C)C)=O
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | Methyl 1-(3-((S)-1-tert-butoxycarbonyl-3-methylbutyl)ureido)cyclohexanecarboxylate | C(C)(C)(C)OC(=O)[C@H](CC(C)C)NC(NC1(CCCCC1)C(=O)OC)=O | C19H34N2O5
